data/mechanisms/records/IMS8-EQ8.26b.json
{"mechanism_id": "IMS8-EQ8.26b", "species": [{"species_id": "cis_butylcyclohexanol_molecular_ion", "mapped_smiles": "[CH:1]1([OH+:7])[CH2:2][CH2:3][C:4]([1H:12])([C:8]([CH3:9])([CH3:10])[CH3:11])[CH2:5][CH2:6]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_c4_radical_oxonium", "mapped_smiles": "[CH:1]1([OH+:7][1H:12])[CH2:2][CH2:3][C:4]([C:8]([CH3:9])([CH3:10])[CH3:11])[CH2:5][CH2:6]1", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "water_loss_radical_cation", "mapped_smiles": "[CH+:1]1[CH2:2][CH2:3][C:4]([C:8]([CH3:9])([CH3:10])[CH3:11])[CH2:5][CH2:6]1", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "water_neutral", "mapped_smiles": "[OH:7][1H:12]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["cis_butylcyclohexanol_molecular_ion"]}, {"state_id": "state_intermediate", "species_ids": ["distonic_c4_radical_oxonium"]}, {"state_id": "state_products", "species_ids": ["water_loss_radical_cation", "water_neutral"]}], "steps": [{"step_id": "step_hydrogen_rearrangement", "from_state": "state_precursor", "to_state": "state_intermediate", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [7]}, "target": {"type": "bond", "atom_maps": [7, 12]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 12]}, "target": {"type": "bond", "atom_maps": [7, 12]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 12]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_inductive_cleavage", "from_state": "state_intermediate", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 7]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_hydrogen_rearrangement", "support_type": "contradicted", "locator": {"page": 157, "equation": "8.26", "section": "8.3 Steric factors -- hydrogen rearrangements in saturated OE+. ions"}, "confidence": 0.8, "curator_note": "EXPERIMENTAL CONTEXT: molecular ion (OE+., n-ionized at oxygen) of cis-4-tert-butylcyclohexanol; page gives no electron energy (electron_energy_ev null, not assumed 70 eV). This is the DISFAVORED (lower) branch of eq 8.26: after the chair-to-boat equilibrium (drawn as an equilibrium arrow, no bond change, not encoded), the reaction arrow leading to the six-membered-TS H-transfer / water-loss product is drawn CROSSED OUT (a large X over the diagonal arrow at lower right). The text states the tertiary H is NOT available for direct transfer via a six-membered transition state in the cis isomer, which eliminates water only to a much lesser extent via a different mechanism. Encoded with support_type=contradicted. Book draws 0 electron-pushing arcs on the cis scheme (only the crossed-out reaction arrow); ALL of moves <1,2,3> are reconstructed for electron balance (not drawn on the page) and are identical to the trans transfer in IMS8-EQ8.26a: move <1> O+. odd electron -> forming O-H bond, move <2> one C4-H bonding electron -> forming O-H bond, move <3> the other C4-H bonding electron -> C4 radical. STEREOCHEMISTRY NOT ENCODED: mapped_smiles is the flat connectivity, identical to the trans record; cis vs trans differ only in the relative configuration of OH and tert-butyl, which is exactly the steric factor that blocks this transfer in the cis isomer. This record documents the rejected path only."}, {"evidence_id": "evidence_step_i", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "contradicted", "locator": {"page": 157, "equation": "8.26", "section": "8.3 Steric factors -- hydrogen rearrangements in saturated OE+. ions"}, "confidence": 0.7, "curator_note": "The inductive (i) C1-O heterolysis / water loss that would follow the H-transfer cannot operate in the cis isomer because its distonic precursor is not formed (the six-membered-TS H-transfer above is crossed out for cis). Encoded with support_type=contradicted to mark the whole facile water-loss pathway as blocked for the cis isomer. Book draws no arc for this step on the cis scheme; the single 2-electron move is reconstructed for electron balance. (The +2 non-bonding electrons on O are a lone pair -- soft lone-pair note from the arrow checker.)"}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "electron_energy_ev": null, "precursor_mz": 156.1509, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_m_minus_water_rejected", "species_id": "water_loss_radical_cation", "step_id": "step_hydrogen_rearrangement", "observed_mz": 138.1403, "status": "rejected", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
